US08283354B2
TFA (1 mL) was added to a solution of (R)-tert-butyl 3-(cyclopropanecarboxamido)pyrrolidine-1-carboxylate (500 mg, 1.96 mmol) in 5 mL CH2Cl2. After stirring for 30 min, the reaction was quenched with 1M NaOH solution till neutral and extracted twice with EtOAc. The organic extracts were combined, dried over MgSO4, filtered, and concentrated to yield N-((R)-pyrrolidin-3-yl)cyclopropanecarboxamide (250 mg) which was used without further purification. LC/MS: m/z 155.3 (M+H)+ at 0.6 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 3-(cyclopropanecarboxamido)pyrrolidine-1-carboxylate | 1.96 mmol, 500 mg | C1(CC1)C(=O)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C13H22N2O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-((R)-pyrrolidin-3-yl)cyclopropanecarboxamide | 250 mg | N1C[C@@H](CC1)NC(=O)C1CC1 | C8H14N2O
